US04016148
In a manner analogous to that given in Example 35 (b), from the benzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-L-valyl-L-alanyl)amino]-ethylphosphonic acid there was obtained (1R)-1-(L-valyl-L-alanylamino)-ethylphosphonic acid of melting point 263°-265° C (decomposition); [α]D20 = -44.6° (c = 0.5% in water).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-L-valyl-L-alanyl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C18H28N3O7P
product | (1R)-1-(L-valyl-L-alanylamino)-ethylphosphonic acid | N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](C)P(O)(O)=O | C10H22N3O5P
